US04532349
A mixture of 43.5 g of p-chlorothiophenol, 47.1 g of p-chloronitrobenzene, 39.0 g of sodium carbonate, 120 ml of water and 150 ml of ethanol was heated at 100° C. for 19 hours, giving 80.0 g of 4-chloro4'-nitrodiphenylsulfide, which was then dissolved in a mixture of 400 ml of acetic acid and 100 ml of 30% hydrogen peroxide and stirred at 100° C. for one hour, giving 80.2 g of the corresponding sulfonyl derivative.

reactant | p-chlorothiophenol | 43.5 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | p-chloronitrobenzene | 47.1 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium carbonate | 39.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 120 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-chloro4'-nitrodiphenylsulfide | 80.0 g | C1=CC(=CC=C1[N+](=O)[O-])SC2=CC=C(C=C2)Cl | C12H8ClNO2S
